US07560471B2
Over a solution of 0.9 g (0.002 mol) of 2-methoxy-5-{4-[1-(2-methoxyethyl)-1H-indol-3-yl]piperidin-1-ylmethy}-benzoic acid ethyl ester in 9 ml of methanol and 5 ml of tetrahydrofuran, 5 ml of a 1N aqueous sodium hydroxide were added. The crude mixture was stirred at room temperature for 20 hours and then neutralised with 1 N aqueous HCl. The product precipitated from the mixture. The solid obtained was filtrated and washed with ethanol and ethyl ether. 0.55 g (65% of yield) of 2-methoxy-5-{4-[1-(2-methoxyethyl)-1H-indol-3-yl]piperidin-1-ylmethyl}-benzoic acid were obtained.

reactant | 2-methoxy-5-{4-[1-(2-methoxyethyl)-1H-indol-3-yl]piperidin-1-ylmethy}-benzoic acid ethyl ester | 0.002 mol, 0.9 g | C(C)OC(C1=C(C=CC(=C1)CN1CCC(CC1)C1=CN(C2=CC=CC=C12)CCOC)OC)=O | C27H34N2O4
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | HCl | 1 N | Cl | ClH
solvent | methanol | 9 ml | CO | CH4O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 2-methoxy-5-{4-[1-(2-methoxyethyl)-1H-indol-3-yl]piperidin-1-ylmethyl}-benzoic acid | 0.55 g, 65% | COC1=C(C(=O)O)C=C(C=C1)CN1CCC(CC1)C1=CN(C2=CC=CC=C12)CCOC | C25H30N2O4
